US05268377
The mixture of ethyl 2-n-propyl-3-{2'-(tert-butoxycarbonyl)biphenyl-4-yl}methyl-5-ethoxycarbonylacetyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate (657 mg), trifluoroacetic acid (3 ml) and methylene chloride (10 ml) is stirred overnight at room temperature. The reaction mixture is washed with saturated sodium hydrogen carbonate solution and brine, dried and evaporated to remove the solvent. The crude residue is purified by silica gel column chromatography (solvent; chloroform/methanol) to give ethyl 2-n-propyl-3-(2 -carboxybiphenyl-4-yl)methyl-5-ethoxycarbonylacetyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate (516 mg).

reactant | ethyl 2-n-propyl-3-{2'-(tert-butoxycarbonyl)biphenyl-4-yl}methyl-5-ethoxycarbonylacetyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate | 657 mg | C(CC)C1=NC2=C(C(N(CC2)C(CC(=O)OCC)=O)C(=O)OCC)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C | C35H43N3O7
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-n-propyl-3-(2 -carboxybiphenyl-4-yl)methyl-5-ethoxycarbonylacetyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate | 516 mg | C(CC)C1=NC2=C(C(N(CC2)C(CC(=O)OCC)=O)C(=O)OCC)N1CC1=CC(=C(C=C1)C1=CC=CC=C1)C(=O)O | C31H35N3O7
